US06417192B1
To a solution of 1 -bromo-7-(4-chlorophenylthio)heptane (1.19 g) in dichloromethane (20 ml) at −20° C. was added metachloroperbenzoic acid (60%, 2.23 g) portionwise over 15 min. The mixture was allowed to warm to room temperature over 1 h and was shaken with aqueous sodium sulfite/sodium hydrogen carbonate solution. The organic layer was dried over magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel using 50:50 hexane:dichloromethane as eluent to give 1-bromo-7-(4-chlorophenylsulfonyl)heptane (1.17 g). 1H-NMR (CDCl3) δ 1.2-2.0 (10H, m), 3.07 (2H, m), 3.38 (2H, t), 7.5-7.6 (2H, m) and 7.8-7.9 (2H, m).

reactant | 1 -bromo-7-(4-chlorophenylthio)heptane | 1.19 g | BrCCCCCCCSC1=CC=C(C=C1)Cl | C13H18BrClS
reactant | metachloroperbenzoic acid | 2.23 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite sodium hydrogen carbonate | S(=O)([O-])[O-].[Na+].[Na+].C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-bromo-7-(4-chlorophenylsulfonyl)heptane | 1.17 g | BrCCCCCCCS(=O)(=O)C1=CC=C(C=C1)Cl | C13H18BrClO2S
